US06413982B1
4-Ethyl-4-phenyl-2-(2-phenylquinolin-4-yl)-imidazolin-5-one
A mixture of N-(1-Carbamoyl-1-phenylpropyl)-2-phenyl-4-quinolinecarboxamide (100 mg, 0.24 mmol) and MeONa (13.2 mg, 0.24 mmol) in 5 mL of MeOH is refluxed for 4 hours. After cyclization is complete, the mixture is cooled and neutralized with HCl in MeOH and solvent is evaporated. The residue is washed with water and dried. Trituration with ethyl acetate affords the corresponding compound as a white solid.

reactant | N-(1-Carbamoyl-1-phenylpropyl)-2-phenyl-4-quinolinecarboxamide | 0.24 mmol, 100 mg | C(N)(=O)C(CC)(C1=CC=CC=C1)NC(=O)C1=CC(=NC2=CC=CC=C12)C1=CC=CC=C1 | C26H23N3O2
reactant | MeONa | 0.24 mmol, 13.2 mg | CO[Na]
reactant | HCl | Cl | ClH
solvent | MeOH | 5 mL | CO | CH4O
product | 4-Ethyl-4-phenyl-2-(2-phenylquinolin-4-yl)-imidazolin-5-one | C(C)C1(N=C(NC1=O)C1=CC(=NC2=CC=CC=C12)C1=CC=CC=C1)C1=CC=CC=C1 | C26H21N3O
